US07517873B2
A solution of 0.050 g (0.00016 mole) of (rac)-2-chloro-9-cyclohexyl-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-19), 0.040 g (0.00016 mole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.050 g of p-toluenesulfonic acid monohydratein 4.0 mL of 2-propanol was heated at 200 degrees for 1 hour in a microwave reactor. The reaction mixture was purified by C18 reverse phase chromatography, eluting with acetonitrile—water containing 0.075% trifluoroacetic acid to give 0.066 g of (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide trifluoroacetic acid salt as a white powder. To a suspension of 0.066 of (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide trifluoroacetic acid salt in tetrahydrofuran was added 0.25 g of SilicaBond Carbonate (Silicycle). The mixture was stirred at room temperature for 4 hours, then filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with dichloromethane-methanol (100:0-75:25) to give 0.041 g of (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-19) as a white powder. HRMS (ES+) m/z Calcd for C29H41N7O3+H [(M+H)+]: 536.3344. Found: 536.3343.

reactant | (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide trifluoroacetic acid salt | FC(C(=O)O)(F)F.C1(CCCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC
reactant | Carbonate | C([O-])([O-])=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (rac)-4-(9-cyclohexyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.041 g | C1(CCCCC1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C29H41N7O3
